US07015218B1
2-Amino-5-(4-morpholinopiperidin-1-yl)benzonitrile
By the reaction and treatment in the same manner as in Starting Material Synthesis Example 40 using 5-chloro-2-nitrobenzonitrile and 4-morpholinopiperidine, the title compound was obtained, melting point: 178–180° C.

reactant | 5-chloro-2-nitrobenzonitrile | ClC=1C=CC(=C(C#N)C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | 4-morpholinopiperidine | O1CCN(CC1)C1CCNCC1 | C9H18N2O
product | 2-Amino-5-(4-morpholinopiperidin-1-yl)benzonitrile | NC1=C(C#N)C=C(C=C1)N1CCC(CC1)N1CCOCC1 | C16H22N4O
